US08119805B2
Stage (vi): 3-(1-(4-Methoxy-2,6-dimethylphenylsulfonyl)piperidin-2-yl)propyl methanesulfonate
3-(1-(4-Methoxy-2,6-dimethylphenylsulfonyl)piperidin-2-yl)propan-1-ol (1.19 mmol, 1 eq) was dissolved in methylene chloride (5 ml), and triethylamine (2.99 mmol, 2.5 eq) and methanesulfonic acid chloride (1.43 mmol, 1.2 eq) were added at 0° C. The mixture was stirred at room temperature for 1 h. The reaction mixture was then diluted with methylene chloride (20 ml), washed with water (10 ml) and saturated sodium chloride solution (8 ml), dried over sodium sulfate and concentrated. The crude product was employed in the next stage without further purification. Yield: 89%

reactant | 3-(1-(4-Methoxy-2,6-dimethylphenylsulfonyl)piperidin-2-yl)propan-1-ol | 1.19 mmol, 1 eq | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1C(CCCC1)CCCO)C | C17H27NO4S
reactant | triethylamine | 2.99 mmol, 2.5 eq | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic acid chloride | 1.43 mmol, 1.2 eq | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-(1-(4-Methoxy-2,6-dimethylphenylsulfonyl)piperidin-2-yl)propyl methanesulfonate | Yield: 89% | CS(=O)(=O)OCCCC1N(CCCC1)S(=O)(=O)C1=C(C=C(C=C1C)OC)C | C18H29NO6S2
